US08309718B2
Step 1. 3-(4-nitrophenyl)-1,3-oxazinan-2-one
To a mixture of p-nitroaniline (0.50 g, 0.0036 mol) and 4-dimethylaminopyridine (DMAP, 0.531 g, 0.00434 mol) in tetrahydrofuran (10 mL, 0.1 mol) was added 3-chloropropyl chloridocarbonate (0.480 mL, 0.00398 mol). The mixture was stirred at room temperature for 1 h, then treated with 1.0 M of potassium tert-butoxide in tetrahydrofuran (7.96 mL, 0.00796 mol) at room temperature for 2 h, then quenched with aqueous ammonium chloride, extracted with EtOAc. The combined organic layers were washed with water, brine, dried and evaporated to dryness. The residue was purified on silica gel, eluting with 0 to 10% MeOH in dichloromethane, to provide the product (260 mg, 32.32%). LCMS (M+H) 222.9.

reactant | p-nitroaniline | 0.0036 mol, 0.50 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | tetrahydrofuran | 0.1 mol, 10 mL | O1CCCC1 | C4H8O
reactant | 3-chloropropyl chloridocarbonate | 0.00398 mol, 0.480 mL | C(COC(=O)Cl)CCl | C4H6Cl2O2
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 0.00796 mol, 7.96 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.00434 mol, 0.531 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(4-nitrophenyl)-1,3-oxazinan-2-one | 260 mg, 32.32% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(OCCC1)=O | C10H10N2O4
